US05856492
adding a solution of hydrogen chloride in isopropanol to a toluene solution of [R-(R*,S*)]-β-methyl-α-phenyl-1-pyrrolidineethanol or its enantiomer at about 10° to about 15° C. and maintaining a reaction temperature of about 10° to about 25° C. to form [R-(R*,S*)]-β-methyl-α-phenyl-1-pyrrolidineethanol hydrochloride or its enantiomer;

reactant | hydrogen chloride | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | β-methyl-α-phenyl-1-pyrrolidineethanol | CC(C(O)C1=CC=CC=C1)N1CCCC1 | C13H19NO
solvent | isopropanol | C(C)(C)O | C3H8O
product | β-methyl-α-phenyl-1-pyrrolidineethanol hydrochloride | Cl.CC(C(O)C1=CC=CC=C1)N1CCCC1 | InChI=1S/C13H19NO.ClH/c1-11(14-9-5-6-10-14)13(15)12-7-3-2-4-8-12;/h2-4,7-8,11,13,15H,5-6,9-10H2,1H3;1H
